US07910774B2
Preparation of {(1S,3S)-1-((2S,4S)-4-isopropyl-5-oxo-tetrahydrofuran-2-yl)-3-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-4-methyl-pentyl}-carbamic acid tert-butyl ester
A solution of 5.51 g of (2S,5S,7S)-5-tert-butoxycarbonylamino-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-8-methyl-4-oxo-nonanoic acid in 25 mL of tetrahydrofuran is cooled to −30° C. and 10 mL of a 1.0 M solution of K-selectride in tetrahydrofuran is added dropwise within 30 minutes. The mixture is stirred for 2 hours at 30° C. and warmed to 0° C. and stirred for 16 hours. The reaction mixture is quenched with 50 mL of 1.0 M hydrochloric acid and extracted three times with 100 mL of dichloromethane. The organic layer is dried and the solvent is removed to give the title compound as a semi solid.

reactant | (2S,5S,7S)-5-tert-butoxycarbonylamino-2-isopropyl-7-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-8-methyl-4-oxo-nonanoic acid | 5.51 g | C(C)(C)(C)OC(=O)N[C@H](C(C[C@H](C(=O)O)C(C)C)=O)C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C30H49NO8
reactant | K-selectride | CCC([BH-](C(CC)C)C(CC)C)C.[K+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | {(1S,3S)-1-((2S,4S)-4-isopropyl-5-oxo-tetrahydrofuran-2-yl)-3-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-4-methyl-pentyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)[C@H]1OC([C@@H](C1)C(C)C)=O)=O | C30H49NO7
